US07560546B2
7-Aminomethyl-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide
7-Cyano-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide (8 mg, 0.024 mmol) was dissolved in 5 mL of methanol. The vessel was degassed and charged with 10% Pd(OH)2 on carbon (0.4 mg, 5 weight percent). The vessel was then charged with 1 atm. H2 and stirred vigorously for 18 hours. The reaction was filtered through a pad of Celite, the pad was washed with methanol and the filtrate was concentrated in vacuo. The title compound was obtained after purification by preparative reversed phase HPLC. Proton NMR for the product was consistent with the titled compound. ESI+MS: 339.3 [M+H]+.

reactant | 7-Cyano-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide | 0.024 mmol, 8 mg | C(#N)C=1C=CC=C2C(=C(NC12)C(=O)N)S(=O)(=O)N1CCOCC1 | C14H14N4O4S
solvent | methanol | 5 mL | CO | CH4O
product | 7-Aminomethyl-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide | NCC=1C=CC=C2C(=C(NC12)C(=O)N)S(=O)(=O)N1CCOCC1 | C14H18N4O4S
